US07465726B2
3-(2H-[1,2,3]Triazol-4-yl)phenylamine
The mixture of azidotrimethylsilane (137 μL, 1.03 mmol) and 3-amino-phenylacetylene (117 mg, 1.00 mmol) was heated in a sealed tube at 150° C. for 16 h. After that time, the mixture was cooled down and triturated by EtOAc/hexane (50%, 10 mL). The mother liquor was purified by TLC eluting with 7% MeOH/CH2Cl2. to give the title compound as brown oil. 1H NMR (CD3OD, 400 MHz): δ=6.61-6.64 (m, 1H), 7.01-7.09 (m, 3H), 7.94 (s, 1H). MS (ES+): m/z 161.20 (38) [MH+]. HPLC: tR=1.54 min (ZQ2000, polar—5 min).

reactant | azidotrimethylsilane | 1.03 mmol, 137 μL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | 3-amino-phenylacetylene | 1.00 mmol, 117 mg | NC=1C=C(C=CC1)C#C | C8H7N
product | 3-(2H-[1,2,3]Triazol-4-yl)phenylamine | N=1NN=C(C1)C=1C=C(C=CC1)N | C8H8N4
